US08017608B2
31a) 4-Methanesulfonyl-benzaldehyde
4-Chlorobenzaldehyde (5.0 g, 36 mmol) and methanesulfinic acid sodium salt (4.04 g, 40 mmol) are dissolved in dry DMSO under argon. The stirred reaction mixture is heated at 100° C. for 17 hours then poured onto water (50 ml). The white precipitate is removed by filtration and dried under vacuum to afford the title compound (2.2 g).

reactant | 4-Chlorobenzaldehyde | 36 mmol, 5.0 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | methanesulfinic acid sodium salt | 40 mmol, 4.04 g | [Na+].CS(=O)[O-]
solvent | DMSO | CS(=O)C | C2H6OS
product | 4-Methanesulfonyl-benzaldehyde | 2.2 g | CS(=O)(=O)C1=CC=C(C=O)C=C1 | C8H8O3S
